US05776929
1,5-Bis-(cyclopropylcarbonylmethyl)-3-amino-1H-1,5-benzodiazepine-2,4(3H,5H)-dione 16 h
To a solution of previously prepared 1,5-bis-(cyclopropylcarbonylmethyl)-3-(t-butoxycarbonylamino)-1H-1,5-benzodiazepine-2,4(3H,5H)-dione 14 h (3.188 g) in ethyl acetate (16 ml) is added a solution of 4N HCl in ethyl acetate (14 ml) under ice-cooling. After stirring the reaction mixture for 15 hr at room temperature, crystalline preparations are filtered off. The resultant crystals are dissolved into methylene chloride/methanol (5:1) and washed with saturated aqueous sodium hydrogencarbonate solution. The organic layer is dried over magnesium sulfate and concentrated under reduced pressure. Crystallization from a mixture of methylene chloride, methanol and diisopropyl ether yields the titled Compound 16 h (2.092 g; yield, 84%).

reactant | 1,5-bis-(cyclopropylcarbonylmethyl)-3-(t-butoxycarbonylamino)-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | C1(CC1)C(=O)CN1C(C(C(N(C2=C1C=CC=C2)CC(=O)C2CC2)=O)NC(=O)OC(C)(C)C)=O | C24H29N3O6
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 16 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 14 ml | C(C)(=O)OCC | C4H8O2
product | 1,5-Bis-(cyclopropylcarbonylmethyl)-3-amino-1H-1,5-benzodiazepine-2,4(3H,5H)-dione | C1(CC1)C(=O)CN1C(C(C(N(C2=C1C=CC=C2)CC(=O)C2CC2)=O)N)=O | C19H21N3O4
